US08247396B2
N-8-quinolinyl-8-quinolinesulfonamide (Compound 25)
The product has already been described in: V. M. Dziomko et al., Azotsoderzhashchie Geterotsikly 1967, 281-284; but by a different method of synthesis. Several grains of activated 4 Å molecular sieve are added to a solution under argon of 8-aminoquinoline (200 mg; 1.39 mmol) and triethylamine (0.30 ml; 2.15 mmol) in 10 ml of CHCl3 and the mixture is stirred slowly for 1 hour. 8-quinolinesulfonyl chloride (350 mg; 1.54 mmol) is added and the mixture is heated to 65° C. for 15 hours. After cooling, 50 ml of CHCl3 are added and the mixture is washed in water (2×50 ml) then dried over anhydrous Na2SO4 and the solvent is evaporated under reduced pressure. The solid is washed with 5 ml of CH2Cl2 to yield after drying 25 in the form of a beige powder (108 mg; 0.32 mmol, yield=23%). NMR-1H (250 MHz, DMSO-d6) δ, ppm: 10.44 (s, 1H); 9.11 (dd, 3J (H, H)=4.5 Hz, 4J (H, H)=1.5 Hz, 1H); 8.83 (dd, 3J (H, H)=4.0 Hz, 4J (H, H)=1.5 Hz, 1H); 8.47 (dd, 3J (H, H)=7.5 Hz, 4J (H, H)=1.5 Hz, 1H); 8.40 (dd, 3J (H, H)=8.5 Hz, 4J (H, H)=1.5 Hz, 1H); 8.22 (dd, 3J (H, H)=8.0 Hz, 4J (H, H)=1.5 Hz, 1H); 8.20 (dd, 3J (H, H)=8.0 Hz, 4J (H, H)=1.5 Hz, 1H); 7.80 (dd, 3J (H, H)=7.5 Hz, 4J (H, H)=1.5 Hz, 1H); 7.70 (dd, 3J (H, H)=8.0 and 7.5 Hz, 1H); 7.62 (dd, 3J (H, H)=8.5 and 4.5 Hz, 1H); 7.51 ((dd, 3J (H, H)=8.5 and 4.0 Hz, 1H); 7.50 (dd, 3J (H, H)=8.5 Hz, 4J (H, H)=1.0 Hz, 1H); 7.42 (dd, 3J (H, H)=8.0 and 7.5 Hz, 1H). NMR-13C (63 MHz, DMSO-d6) δ, ppm: 151.5 (CH); 148.9 (CH); 142.1 (Cq); 137.6 (Cq); 136.9 (CH); 136.3 (CH); 134.4 (CH); 134.2 (Cq); 133.7 (Cq); 131.7 (CH); 128.2 (Cq); 127.8 (Cq); 126.6 (CH); 125.5 (CH); 122.6 (CH); 122.3 (CH); 122.1 (CH); 113.8 (CH). MS (CID, NH3): m/z=336 (MH+). Analysis (%) for C18H13N3O2S.0.2H2O: calculated C, 63.78. H, 3.98. N, 12.40. found C, 63.53. H, 3.70. N, 12.23.

reactant | 8-aminoquinoline | 1.39 mmol, 200 mg | NC=1C=CC=C2C=CC=NC12 | C9H8N2
reactant | triethylamine | 2.15 mmol, 0.30 ml | C(C)N(CC)CC | C6H15N
reactant | 8-quinolinesulfonyl chloride | 1.54 mmol, 350 mg | N1=CC=CC2=CC=CC(=C12)S(=O)(=O)Cl | C9H6ClNO2S
solvent | CHCl3 | 10 ml | C(Cl)(Cl)Cl | CHCl3
solvent | CHCl3 | 50 ml | C(Cl)(Cl)Cl | CHCl3
product | N-8-quinolinyl-8-quinolinesulfonamide | yield=23% | N1=CC=CC2=CC=CC(=C12)NS(=O)(=O)C=1C=CC=C2C=CC=NC12 | C18H13N3O2S
